Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Morphine / adhesive tape / Iodine-Iodine 
Containing
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo woman with PMHx sig. for CVA, CAD s/p 
multiple PCIs, DM, and HTN who presented to ___ 
___ for a severe headache, blurry vision, and concern 
for increased gait instability.  Her headache started 4 AM this 
morning, waking her up from sleep.  The headache starts in the 
back and goes all over her head, described as a "very bad" pain, 
rating ___.  Her headache is triggered wtih getting up, 
relieved by sitting down.  Her headaches ia also associated with 
nausea and dry heaves, no vomiting.  When she got out of bed, 
she leaned forward, falling into the door.  She was lightheaded 
and leaning to right and left.  Of note, pt had previously been 
on coumadin for ___ years; this was discontinued 3 months ago.

At OSH, she was hypertensive to sbp 200, which resolved on its 
own.  She had a neg head CT scan and was transferred for neuro 
eval and MRI. 

In the ED, initial VS were: 98.4 76 146/99 18 95% RA.  Labs were 
notable for ESR 16.  She had an LP.  MRI head showed "No 
evidence of acute infarct. Tiny DWI signal intensity at the 
right frontal lobe (10:18) is likely T2 shinethrough. Chronic 
microvascular ischemic changes seen in the paraventricular white 
matter. no aneurysm or dissection seen. No evidence of 
hemorrhage."  The patient received percocet. Vitals prior to 
transfer to the floor were:  98.4 76 146/99 18 95% RA.  

Currently, she feels that her gait is back to baseline.
 
Review of Systems:  
(+) Per HPI plus:  night sweats, rhinorrhea, postnasal drip 
cough, chronic joint pains, residual weakness in L leg and arm 
and tingling in L leg from stroke 
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies sinus tenderness, or congestion. Denies chest pain 
or tightness, palpitations. Denies  shortness of breath Denies 
nausea, vomiting, diarrhea, constipation,  or abdominal pain. No 
dysuria, urinary frequency. Denies rashes. All other review of 
systems negative.  

 
Past Medical History:
CVA in ___, residual weakness in L leg and arm and tingling in 
L leg
CAD s/p multiple PCIs
DM2
HTN
h/o breast cancer, s/p lumpectomy in ___
 
Social History:
___
Family History:
Two sons have had CABG.
 
Physical Exam:
Vitals:  147/67, 70, 98RA
Gen: NAD, AOX3  
HEENT: PERRL, EOMI, MMM, sclera anicteric, not injected  
Neck: no LAD, no JVD  
Cardiovascular: RRR normal s1, s2, no murmurs appreciated  
Respiratory: bibasilar crackles, no wheezing  
Abd: normoactive bowel sounds, soft, non-tender, non distended 
Extremities: No edema, 2+ DP pulses  
Neurological: CN II-XII intact, normal attention, sensation 
normal, babinski down-going bilaterally, MS ___ in BUEs and BLEs 
though slightly weaker on LLE, ataxic gait leaning to both 
sides, unable to perform Romberg as unstead with eyes open  
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
 
Pertinent Results:
Admission labs:
___ 08:24PM   WBC-8.6 RBC-4.09* HGB-13.6 HCT-38.8 MCV-95 
MCH-33.2* MCHC-34.9 RDW-13.5
___ 08:24PM   NEUTS-52.4 ___ MONOS-5.4 EOS-3.8 
BASOS-1.3
___ 08:24PM   GLUCOSE-89 UREA N-22* CREAT-1.3* SODIUM-141 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-25 ANION GAP-17
___ 08:24PM   ___ PTT-22.6 ___

Discharge Labs
___ 06:50AM BLOOD WBC-10.6 RBC-3.70* Hgb-12.2 Hct-35.9* 
MCV-97 MCH-33.0* MCHC-34.1 RDW-14.0 Plt ___
___ 07:14AM BLOOD ___ PTT-95.9* ___
___ 08:24PM BLOOD ESR-16
___ 06:50AM BLOOD Glucose-87 UreaN-27* Creat-1.5* Na-147* 
K-4.1 Cl-113* HCO3-25 AnGap-13
___ 06:50AM BLOOD Calcium-8.7 Phos-2.7 Mg-2.2
___ 08:24PM BLOOD CRP-1.3

___ 10:46AM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:46AM URINE Blood-SM Nitrite-NEG Protein-150 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD
___ 10:46AM URINE ___ Bacteri-MANY 
Yeast-NONE ___

MRI ___
IMPRESSION:
1. Punctate acute infarcts in the right hemisphere, which could 
be along ACA/MCA and MCA/PCA watershed territories or be within 
the MCA territory.
2. Chronic infarct of the superior right frontal lobe, MCA 
territory.
3. Multifocal high-grade stenoses involving the right MCA M2 
divisions. Other milder probably atherosclerotic disease as 
described above.
4. Findings compatible with underlying chronic small vessel 
ischemic disease.

CTA ___
IMPRESSION: Mild stenoses of the superior and inferior M2 
divisions of the right MCA, improved compared to recent MRA. 
This could be due to improvement in vasospasm or technical 
differences in evaluation of stable atherosclerotic 
irregularity.

Carotid Doppler ___
Right ICA stenosis <40%.
Left ICA stenosis 60-69%.

Echocardiogram ___
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). There is an abnormal 
systolic flow contour at rest, but no left ventricular outflow 
obstruction. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
IMPRESSION: No cardiac source of embolism seen. Normal global 
and regional biventricular systolic function. Calcified aortic 
and mitral valves without significant stenosis or regurgitation. 
Negative bubble study. 

EKG ___
Sinus rhythm. Normal tracing. Compared to the previous tracing 
of ___
ventricular ectopy and left atrial abnormality are no longer 
seen.
___
___ yo woman with PMHx sig. for CVA, CAD s/p multiple PCIs, DM, 
and HTN who presented to ___ for a 
severe headache, blurry vision, and concern for increased gait 
instability.

She was transferred to ___ for further neurologic evaluation 
and MRI given concern for severe headache or neck pain ___ 
radiating to bioccipital and bitemporal areas, with hypertension 
to 200 mmHg and vomiting at ___. along with history of a 
prior stroke, despite normal CT there. 

MRI revealed punctate infarcts of the right hemisphere within 
MCA or distal MCA watersheds. Therefore, Mrs. ___ was 
admitted to Neurology for further workup.

Headache improved and no new neurologic deficits were noted - 
gait instability at baseline per patient. 

CTA was reassuring with respect to intracranial MCA stenosis, 
despite such on MRA. Carotid ultrasound revealed less than 40% R 
internal carotid stenosis. There was no known history of atrial 
fibrillation and echo demonstrated no thrombi or atrial septal 
defect. 

Headache may have related to underlying vasospasm, explaining 
improved MCA territory stenosis from MRA to CTA. Headache may 
have also related to uncontrolled hypertension. GIven that no 
embolic source was found, this was seen as the most likely 
explanation. Verapamil was started and initial heparin IV 
therapy was stopped. On final assessment probable migraine with 
vasospasm was thought most likely. Aspirin and simvastatin are 
to continued. She is discharged for follow-up with Dr. ___ 
in clinic. 
 
Medications on Admission:
Metformin 500 mg bid
Isosorbide mono 20 mg daily
Metoprolol 100 mg TID
Simvastatin 40 mg daily
Lisinopril 40 mg daily
Furosemide 40 mg daily
Caltrate 600 + D
Asa 81 mg daily
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*50 Tablet, Chewable(s)* Refills:*2*
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*40 Tablet(s)* Refills:*2*
3. verapamil 240 mg Cap,24 hr Sust Release Pellets Sig: One (1) 
Cap,24 hr Sust Release Pellets PO once a day.
Disp:*30 Cap,24 hr Sust Release Pellets(s)* Refills:*2*
4. metoprolol tartrate 100 mg Tablet Sig: One (1) Tablet PO 
three times a day.  
5. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 2 days.
Disp:*4 Tablet(s)* Refills:*0*
6. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute:
-Punctate acute infarcts in the right hemisphere, which could be 
along ACA/MCA and MCA/PCA watershed territories or be within the 
MCA territory. 
-Vasospasm 
  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with unusual headache. Your 
brain MRI showed a very small infarct in the frontal and 
parietal areas; called "watershed infarct" that was likely due 
to vasoconstriction. You will need to be on a medication called 
verapamil to prevent further strokes.
 
Followup Instructions:
___